US05294734
18.0 g (51.4 mmol) of ethyl 6-acetoxy-4-bromomethyl-2-formylamino-hept-3-enoate and 56.3 ml (205.6 mmol) of 90% triisopropyl phosphite are heated to 80° C. and the mixture is stirred for 18 hours under a pressure of 100-150 mbar. Excess triisopropyl phosphite is removed by distillation and the residue is purified by chromatography on silica gel with ethyl acetate/isopropanol (7:2), giving ethyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate as an orange oil. yield.

reactant | ethyl 6-acetoxy-4-bromomethyl-2-formylamino-hept-3-enoate | 51.4 mmol, 18.0 g | C(C)(=O)OC(CC(=CC(C(=O)OCC)NC=O)CBr)C | C13H20BrNO5
reactant | triisopropyl phosphite | 205.6 mmol, 56.3 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | ethyl 6-acetoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate | C(C)(=O)OC(CC(=CC(C(=O)OCC)NC=O)CP(=O)(OC(C)C)OC(C)C)C | C19H34NO8P
